US07205302B2
(±)-N-benzyloxycarbonyl-2-formylpyrrolidine
To a solution of 12.00 g of (±)-N-benzyloxycarbonyl-2-pyrrolidine carboxylic acid methyl ester in 50 ml of dry dichloromethane, 50 ml of diisobutylaluminum hydride (1M toluene solution) was added dropwise under an argon atmosphere at −70° C. or lower, followed by stirring for 2 hours. To the reaction solution, 230 ml of 1N hydrochloric acid was added dropwise, and then the mixture was heated to room temperature and extracted with diethyl ether. The extract was washed with water and dried over anhydrous magnesium sulfate, and then the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography to obtain 4.72 g of the desired compound as a colorless oily substance.

reactant | (±)-N-benzyloxycarbonyl-2-pyrrolidine carboxylic acid methyl ester | 12.00 g | COC(=O)C1N(CCC1)C(=O)OCC1=CC=CC=C1 | C14H17NO4
reactant | hydrochloric acid | 1N, 230 ml | Cl | ClH
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | diisobutylaluminum hydride | 1M, 50 ml | [H-].C(C(C)C)[Al+]CC(C)C
product | (±)-N-benzyloxycarbonyl-2-formylpyrrolidine | 4.72 g | C(C1=CC=CC=C1)OC(=O)N1C(CCC1)C=O | C13H15NO3
